US09403810B2
Step 2: Potassium 5-(4-(tert-butyl)-1,3-dioxolan-2-yl)-4-methylisoxazole-3-carboxylate
To a solution of ethyl 5-(4-(tert-butyl)-1,3-dioxolan-2-yl)-4-methylisoxazole-3-carboxylate (42 mg, 0.148 mmol) in THF (4 mL) was added potassium trimethylsilanolate (19.02 mg, 0.148 mmol) and the mixture was stirred at room temperature for 1.5 hours. The resulting mixture was concentrated under reduced pressure to afford the title compound.

reactant | ethyl 5-(4-(tert-butyl)-1,3-dioxolan-2-yl)-4-methylisoxazole-3-carboxylate | 0.148 mmol, 42 mg | C(C)(C)(C)C1OC(OC1)C1=C(C(=NO1)C(=O)OCC)C | C14H21NO5
reactant | potassium trimethylsilanolate | 0.148 mmol, 19.02 mg | C[Si]([O-])(C)C.[K+]
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | Potassium 5-(4-(tert-butyl)-1,3-dioxolan-2-yl)-4-methylisoxazole-3-carboxylate | C(C)(C)(C)C1OC(OC1)C1=C(C(=NO1)C(=O)[O-])C.[K+] | InChI=1S/C12H17NO5.K/c1-6-8(10(14)15)13-18-9(6)11-16-5-7(17-11)12(2,3)4;/h7,11H,5H2,1-4H3,(H,14,15);/q;+1/p-1
